subckt xnor2_x1 A1 A2 X VDD VSS
X0_nr_PA0 (pmid_X0_nr_0 A1 VDD VDD) pmos w=2u l=100n
X0_nr_PB0 (x_nor_0 A2 pmid_X0_nr_0 VDD) pmos w=2u l=100n
X0_nr_NA0 (x_nor_0 A1 VSS VSS) nmos w=1u l=100n
X0_nr_NB0 (x_nor_0 A2 VSS VSS) nmos w=1u l=100n
X0_iv_P0 (x_or_0 x_nor_0 VDD VDD) pmos w=2u l=100n
X0_iv_N0 (x_or_0 x_nor_0 VSS VSS) nmos w=1u l=100n
X0_nd_PA0 (x_nand_0 A1 VDD VDD) pmos w=2u l=100n
X0_nd_PB0 (x_nand_0 A2 VDD VDD) pmos w=2u l=100n
X0_nd_NB0 (x_nand_0 A2 nmid_X0_nd_0 VSS) nmos w=1u l=100n
X0_nd_NA0 (nmid_X0_nd_0 A1 VSS VSS) nmos w=1u l=100n
X0_na_PA0 (X x_or_0 VDD VDD) pmos w=2u l=100n
X0_na_PB0 (X x_nand_0 VDD VDD) pmos w=2u l=100n
X0_na_NB0 (X x_nand_0 nmid_X0_na_0 VSS) nmos w=1u l=100n
X0_na_NA0 (nmid_X0_na_0 x_or_0 VSS VSS) nmos w=1u l=100n
ends xnor2_x1
